US05441731
Methyl methacrylate (1.15 L, stabilised with 50 ppm of BHT), 11-bromoundecanol (200 g, 0.8 mole) and titanium tetraisopropoxide (11.4 g, 0.04 mole) are mixed together. A constant slow stream of dry air is bubbled through the reaction mixture during the reaction. The reaction mixture is heated under gentle reflux for 1 hour (internal temperature 90°). After this reflux period the methyl methacrylate/methanol azeotrope is removed under atmospheric distillation. During this time the internal temperature rises to 104° and the temperature at the still head rises from 65° to 101° (a total of 550 ml of distillate is collected). The reaction mixture is then cooled to 40° and quenched with water (1.5 ml, 2 equiv. based on titanium tetraisopropoxide). The resulting mixture is stirred for 3 hours then treated with celite (20 g). After stirring for a further 10 minutes the reaction mixture is filtered through a pad of celite. The filter pad is washed with methyl methacrylate (50 ml). The filtrate and wash are combined and distilled under vacuum (4-10 mmHg) at room temperature, then at 50°-60° to remove last traces of methyl methacrylate. During distillation a slow stream of dry air is bubbled through the residue in the distillation vessel. The product, 11-bromoundecyl methacrylate (233 g, 91% yield) is obtained as a pale yellow oil.

reactant | Methyl methacrylate | 1.15 L | C(C(=C)C)(=O)OC | C5H8O2
reactant | 11-bromoundecanol | 0.8 mole, 200 g | BrCCCCCCCCCCCO | C11H23BrO
reactant | water | 1.5 ml, 2 equiv. | O | H2O
catalyst | titanium tetraisopropoxide | 0.04 mole, 11.4 g | CC([O-])C.CC([O-])C.CC([O-])C.CC([O-])C.[Ti+4]
product | 11-bromoundecyl methacrylate | 233 g, 91% yield | C(C(=C)C)(=O)OCCCCCCCCCCCBr | C15H27BrO2
